US08084604B2
2-Methoxy-5-trifluoromethylphenyl isocyanate (274.3 g) is dissolved in acetonitrile (1 l), then 2-bromo-6-fluoroaniline (200 g) is added and rinsed out with acetonitrile (50 ml). The resulting clear solution is stirred under reflux (ca. 85° C.) for 38 h, then concentrated in vacuo at 40° C. to a viscous magma. This is filtered off with suction, washed with acetonitrile (260 ml, cooled to 0-5° C.) and dried overnight at 45° C. in the VDO using entraining nitrogen. A total of 424.3 g of N-(2-bromo-6-fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea are obtained as a solid, corresponding to 99.2% of theory.

reactant | 2-Methoxy-5-trifluoromethylphenyl isocyanate | 274.3 g | COC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C9H6F3NO2
reactant | 2-bromo-6-fluoroaniline | 200 g | BrC1=C(N)C(=CC=C1)F | C6H5BrFN
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
product | N-(2-bromo-6-fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea | 424.3 g | BrC1=C(C(=CC=C1)F)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)OC | C15H11BrF4N2O2
